US06242438B1
Ethyl 3-cyano-3-(3,4-dichlorophenyl)-5-(tetrahydropyran-2-yloxy)pentanoate
To a solution of diisopropylamine (25.9 ml, 1 mol. equiv.) in tetrahydrofuran (200 ml) at −78° C. under nitrogen was added n-butyllithium (73.9 ml of a 2.5M solution, 1 mol. equiv.). The solution was allowed to warm to room temperature over two hours. A solution of 2-(3,4-dichlorophenyl)-4-(tetrahydropyran-2-yloxy)butanenitrile (PREPARATION 17) (58 g, 158 mmol) in tetrahydrofuran (200 ml) was then added and the solution was stirred for one hour. A solution of ethyl-2-bromoacetate (20.5 ml, 1 mol. equiv.) in tetrahydrofuran (50 ml) was then added and the reaction was heated to reflux for two hours. Water (10 ml) was then added and the solution was concentrated under reduced pressure. Water (300 ml) and brine (300 ml) were added and the mixture was extracted with ethyl acetate (2×300 ml). The combined organic layers were washed with water (2×300 ml), dried over anhydrous magnesium sulphate, filtered and the solvent was removed under reduced pressure. Chromatography using silica gel, eluting with diethyl ether:hexane using gradient elution (4:1 to 1:1 by volume), gave the title compound.

reactant | diisopropylamine | 1 mol, 25.9 ml | C(C)(C)NC(C)C | C6H15N
reactant | n-butyllithium | C(CCC)[Li]
reactant | 2-(3,4-dichlorophenyl)-4-(tetrahydropyran-2-yloxy)butanenitrile | 158 mmol, 58 g | ClC=1C=C(C=CC1Cl)C(C#N)CCOC1OCCCC1 | C15H17Cl2NO2
reactant | ethyl-2-bromoacetate | 1 mol, 20.5 ml | C(C)OC(CBr)=O | C4H7BrO2
solvent | tetrahydrofuran | 200 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 200 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
solvent | Water | 10 ml | O | H2O
product | Ethyl 3-cyano-3-(3,4-dichlorophenyl)-5-(tetrahydropyran-2-yloxy)pentanoate | C(#N)C(CC(=O)OCC)(CCOC1OCCCC1)C1=CC(=C(C=C1)Cl)Cl | C19H23Cl2NO4
